US06238752B1
In a 500 ml three-necked flask equipped with a stirring means and a dropping funnel were placed 7.92 g of 3,5-dinitrobenzyl alcohol, 6.90 g of α-phenylmaleimide and 11.5 g of triphenylphosphine, and the mixture was dissolved in 200 ml of THF with stirring. To the solution was added dropwise 20.9 g of diethyl azodicarboxylate (as a 40% toluene solution) at 0° C. or lower. After the dropwise addition, the temperature was allowed to rise to room temperature and stirring was continued for 24 hours. The reaction solution was poured into water and extracted three times with ethyl acetate. The organic layer was washed three times with water and dried over anhydrous magnesium sulfate. The drying agent was separated by filtration and the organic layer was concentrated under reduced pressure. The resulting pale yellow crystal was collected by filtration with n-heptane and recrystallized twice from ethyl acetate to afford 10.41 g of N-(3,5-dinitrophenyl)methyl-α-phenylmaleimide.

reactant | 3,5-dinitrobenzyl alcohol | 7.92 g | [N+](=O)([O-])C=1C=C(CO)C=C(C1)[N+](=O)[O-] | C7H6N2O5
reactant | α-phenylmaleimide | 6.90 g | C1(=CC=CC=C1)C=1C(=O)NC(C1)=O | C10H7NO2
reactant | triphenylphosphine | 11.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 20.9 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(3,5-dinitrophenyl)methyl-α-phenylmaleimide | 10.41 g | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])CN1C(C(=CC1=O)C1=CC=CC=C1)=O | C17H11N3O6
